US08420695B2
A vial was charged with copper acetate (77 mg, 0.425 mmol), ethyl 2-amino-5-phenylthiophene-3-carboxylate (100 mg, 0.404 mmol), phenylboronic acid (99 mg, 0.809 mmol), dichloromethane (2 ml), and triethylamine (0.113 ml, 0.809 mmol). The blue-green reaction mixture was magnetically stirred for 19 hours and then concentrated to a volume of 0.5 mL. The crude reaction mixture was purified by silica gel chromatography (7-60% dichloromethane/hexanes) to afford ethyl 2-anilino-5-phenylthiophene-3-carboxylate.

reactant | ethyl 2-amino-5-phenylthiophene-3-carboxylate | 0.404 mmol, 100 mg | NC=1SC(=CC1C(=O)OCC)C1=CC=CC=C1 | C13H13NO2S
reactant | phenylboronic acid | 0.809 mmol, 99 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 0.809 mmol, 0.113 ml | C(C)N(CC)CC | C6H15N
catalyst | copper acetate | 0.425 mmol, 77 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | ethyl 2-anilino-5-phenylthiophene-3-carboxylate | N(C1=CC=CC=C1)C=1SC(=CC1C(=O)OCC)C1=CC=CC=C1 | C19H17NO2S
